US06544981B2
[[[(3S)-Hexahydro-2-oxo-1-[2-oxo-2-(1-pyrrolidinyl)ethyl]-1H-azepin-3-yl]amino][(2-methyl-5-benzofuranyl)amino]methylene]propanedioic Acid Dimethyl Ester
Sodium hydride (95%, 11 mg, 0.44 mmol) was added to a solution of dimethyl malonate (40 mg, 0.30 mmol) in DMF (1.5 mL) at 0° C. The resulting mixture was warmed to room temperature, 2-methyl-5-isothiocyanatobenzofuran (56 mg, 0.30 mmol) was then added, and the resulting solution was stirred at at room temperature for 30 minutes. To the solution was then added 1-[[(3S)-3-aminohexahydro-2-oxo-1H-azepin-1-yl]acetyl]pyrrolidine (71 mg, 0.30 mmol) followed by mercury (II) chloride (82 mg, 0.30 mmol). The resulting dark mixture was stirred at room temperature for 2 h, then filtered through CELITE. The filtrate was concentrated, and the residue was purified by flash chromatography (silica, 1 to 5% methanol/dichloromethane) to afford the title compound as a pale yellow solid (63 mg, 40%): MS (ESI, pos. ion spectrum) m/z 527, HPLC (method A): tR 3.5 min.

reactant | Sodium hydride | 0.44 mmol, 11 mg | [H-].[Na+]
reactant | dimethyl malonate | 0.30 mmol, 40 mg | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | 2-methyl-5-isothiocyanatobenzofuran | 0.30 mmol, 56 mg | CC=1OC2=C(C1)C=C(C=C2)N=C=S | C10H7NOS
reactant | 1-[[(3S)-3-aminohexahydro-2-oxo-1H-azepin-1-yl]acetyl]pyrrolidine | 0.30 mmol, 71 mg | N[C@@H]1C(N(CCCC1)CC(=O)N1CCCC1)=O | C12H21N3O2
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
catalyst | mercury (II) chloride | 0.30 mmol, 82 mg | [Hg](Cl)Cl
product | [[[(3S)-Hexahydro-2-oxo-1-[2-oxo-2-(1-pyrrolidinyl)ethyl]-1H-azepin-3-yl]amino][(2-methyl-5-benzofuranyl)amino]methylene]propanedioic Acid Dimethyl Ester | 63 mg, 40% | COC(C(C(=O)OC)=C(NC=1C=CC2=C(C=C(O2)C)C1)N[C@@H]1C(N(CCCC1)CC(N1CCCC1)=O)=O)=O | C27H34N4O7
